US08981084B2
6-(2,2-Dimethyl-4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)nicotinonitrile
This compound was synthesized from 6-(2,2-dimethylpiperazin-1-yl)nicotinonitrile hydrochloride and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (50 mg, yield 33%). 1H NMR (400 MHz, MeOD) δ 8.43 (d, J=1.8 Hz, 1H), 8.29-8.22 (m, 2H), 7.75-7.72 (m, 3H), 6.88 (d, J=9.0 Hz, 1H), 4.05-3.85 (m, 4H), 3.67 (m, 2H), 1.67-1.47 (m, 6H). MS (ESI) m/z: Calculated for C22H19F3N6O2: 456.15. found: 457.2 (M+H)+

reactant | 6-(2,2-dimethylpiperazin-1-yl)nicotinonitrile hydrochloride | Cl.CC1(N(CCNC1)C1=NC=C(C#N)C=C1)C
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | 6-(2,2-Dimethyl-4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)nicotinonitrile | yield 33% | CC1(N(CCN(C1)C(C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)=O)C1=NC=C(C#N)C=C1)C | C22H19F3N6O2
